US04492707
A solution of 2-methyl-3-(1-imidazolyl)-2,3-dihydro-4H-1-benzopyran-4-one (0.53 g) in anhydrous tetrahydrofurane (20 ml) was added to the reaction mixture, which was refluxed moderately for 30 minutes and then for 1 hour on a water bath. The mixture was cooled, poured into a mixture of crushed ice and water (100 ml) and extracted with CHCl3 (100 ml). The organic layer, dried on anhydrous Na2SO4 and evaporated to dryness under vacuum, afforded 2-methyl-3-(1-imidazolyl)-2,3-dihydro-4-methyl-benzopyran-4-ol (0.3 g);

reactant | 2-methyl-3-(1-imidazolyl)-2,3-dihydro-4H-1-benzopyran-4-one | 0.53 g | CC1OC2=C(C(C1N1C=NC=C1)=O)C=CC=C2 | C13H12N2O2
reactant | water | 100 ml | O | H2O
reactant | tetrahydrofurane | 20 ml | O1CCCC1 | C4H8O
product | 2-methyl-3-(1-imidazolyl)-2,3-dihydro-4-methyl-benzopyran-4-ol | 0.3 g | CC1OC2=C(C(C1N1C=NC=C1)(O)C)C=CC=C2 | C14H16N2O2
